US08258144B2
A solution of 2-chloro-N-cyclopropyl-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (190 mg, 0.389 mmol) in dioxane (3 mL) was degassed with Ar before being charged with tetravinyltin (0.105 mL, 0.576 mmol) and Pd(Ph3P)4 (41 mg, 0.035 mmol). The mixture was stirred at 100° C. for 3 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by HPLC to give 2-chloro-N-cyclopropyl-7-tosyl-5-vinyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (39 mg).

reactant | 2-chloro-N-cyclopropyl-5-iodo-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.389 mmol, 190 mg | ClC=1N=C(C2=C(N1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C16H14ClIN4O2S
reactant | tetravinyltin | 0.576 mmol, 0.105 mL | C(=C)[Sn](C=C)(C=C)C=C
reactant | Water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(Ph3P)4 | 0.035 mmol, 41 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-chloro-N-cyclopropyl-7-tosyl-5-vinyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 39 mg | ClC=1N=C(C2=C(N1)N(C=C2C=C)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C18H17ClN4O2S
